US04563310
A mixture of 4-(2-chloro-4-trifluoromethylphenoxy)-1,2-dinitrobenzene, (2-chloro-α,α,α-trifluoro-p-tolyl-3,4-dinitrophenyl ether) (1.2 g, 3.31 mmol) and dimethyl methylphosphonite (0.57 g, 5.3 mmol) in 3 ml of acetonitrile is refluxed overnight. The mixture is concentrated and the residue is purified by column chromatography (silica gel, eluting with 3% ethyl acetate/hexane) to yield methyl P-methyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinate.

reactant | 4-(2-chloro-4-trifluoromethylphenoxy)-1,2-dinitrobenzene | ClC1=C(OC2=CC(=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C13H6ClF3N2O5
reactant | 2-chloro-α,α,α-trifluoro-p-tolyl-3,4-dinitrophenyl ether | ClC1=C(C=CC(C1[N+](=O)[O-])([N+](=O)[O-])C1=C(C=CC=C1)C(F)(F)F)OC1=C(C(C(C=C1)(C1=C(C=CC=C1)C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-])Cl | C26H14Cl2F6N4O9
reactant | dimethyl methylphosphonite | 5.3 mmol, 0.57 g | CP(OC)OC | C3H9O2P
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | methyl P-methyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinate | CP(OC)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C15H12ClF3NO5P
